US08097617B2
Step 7.3: [3-Amino-6-(2,4-dichloro-phenyl)-[1,2,4]triazolo[4,3-a]pyridin-7-ylmethyl]-carbamic acid tert-butyl ester.
A mixture of the crude [5-(2,4-dichloro-phenyl)-2-hydrazino-pyridin-4-ylmethyl]-carbamic acid tert-butyl ester (1.66 g) and BrCN (638 mg, 6.0 mmol) in EtOH (40 mL) was heated at 65° C. and stirred for 2 h30. The reaction mixture was cooled to RT, poured into AcOEt (100 mL) and washed with a 2.0 M aqueous Na2CO3 solution (2×50 mL). The organic layer was dried over Na2SO4, filtered, and evaporated. The residue was purified by Combi-Flash Companion™ (Isco Inc.) column chromatography (SiO2; gradient elution, DCM/MeOH 95:5→4:6) to yield the title compound (908 mg, 2.22 mmol, 74% over 2 steps) as a brownish solid. MS: 408 [M+1]+; HPLC: AtRet=1.62; TLC: RF 0.16 (DCM/MeOH 95:5).

reactant | [5-(2,4-dichloro-phenyl)-2-hydrazino-pyridin-4-ylmethyl]-carbamic acid tert-butyl ester | 1.66 g | C(C)(C)(C)OC(NCC1=CC(=NC=C1C1=C(C=C(C=C1)Cl)Cl)NN)=O | C17H20Cl2N4O2
reactant | BrCN | 6.0 mmol, 638 mg | BrC#N | CBrN
reactant | AcOEt | 100 mL | CCOC(=O)C | C4H8O2
solvent | EtOH | 40 mL | CCO | C2H6O
product | [3-Amino-6-(2,4-dichloro-phenyl)-[1,2,4]triazolo[4,3-a]pyridin-7-ylmethyl]-carbamic acid tert-butyl ester | 2.22 mmol, 908 mg, 74% | C(C)(C)(C)OC(NCC1=CC=2N(C=C1C1=C(C=C(C=C1)Cl)Cl)C(=NN2)N)=O | C18H19Cl2N5O2
